US04920116
α-(3,4-Dichlorophenyl)-1-pyrrolidinepropanenitrile
To 100 mL of ethanol is added (18.6 g (0.1 mol) 3,4-dichlorobenzeneacetonitrile, 12.6 g (0.12 mol) of pyrrolidine hydrochloride, 6.0 g (0.2 mol) of paraformaldehyde and 1 mL of concentrated hydrochloric acid. Stir the mixture at reflux. Monitor the progress of the reaction by thin-layer chromatography. Upon completion add 300 mL of 1N HCl and extract with 200 mL of Et2O. Add 4N NaOH to the aqueous solution until basic and extract the aqueous solution with two 100 mL portions of CH2Cl2. Dry the organic phase over anhydrous Na2SO4. Filter the drying agent and evaporate the solvent in vacuo to obtain the title compound.

reactant | 3,4-dichlorobenzeneacetonitrile | 0.1 mol, 18.6 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | pyrrolidine hydrochloride | 0.12 mol, 12.6 g | Cl.N1CCCC1
reactant | paraformaldehyde | 0.2 mol, 6.0 g | C=O | CH2O
reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | HCl | 1N, 300 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | α-(3,4-Dichlorophenyl)-1-pyrrolidinepropanenitrile | ClC=1C=C(C=CC1Cl)C(C#N)CN1CCCC1 | C13H14Cl2N2
